US04640913
1-Hydroxy-3-[2-(octadecyloxy)phenyl]-2-propanone
To a solution of about 50 g of 2-(octadecyloxy)phenyl acetic acid in about 400 ml of methylene chloride was added about 19.6 g of oxalylchloride. After stirring about 3 hours the solvent was removed and the residue was dissolved in hexane and filtered through celite. The hexane was removed and to the residue was added about 79.5 g of tris-trimethylsilyloxyethylene. This mixture was stirred at about 90°-95° C. for 1.5 hours, then the oil was poured into a mixture of about 30 ml of concentrated (about 12N) hydrochloric acid, about 170 ml of water and about 200 ml of tetrahydrofuran and stirred at reflux for about 1/2 hour. The tetrahydrofuran was removed and the residue was extracted with ether. The ether extract was washed with dilute sodium bicarbonate, then brine and dried. The solvent was removed and the residue recrystallized from hexane, giving about 31 g of the desired title compound as a white solid, mp 59°-60° C.

reactant | 2-(octadecyloxy)phenyl acetic acid | about 50 g | C(CCCCCCCCCCCCCCCCC)OC1=C(C=CC=C1)CC(=O)O | C26H44O3
reactant | oxalylchloride | about 19.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | about 400 ml | C(Cl)Cl | CH2Cl2
product | 1-Hydroxy-3-[2-(octadecyloxy)phenyl]-2-propanone | about 31 g | OCC(CC1=C(C=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C27H46O3
